*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X8L(-55to150[deg])/1.00e-01[uF]/25[V]
* Murata P/N :GCM155L81E104KE01
* Property : C = 1.00e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155L81E104KE01 Port1 Port2
C01 Port1 N01 9.71e-08
R01 Port1 N01 5.00e+08
L02 N01 N02 1.66e-10
R03 N02 N03 1.63e-02
C04 N03 N04 1.15e-05
R04 N03 N04 3.22e+02
C05 N04 N05 1.33e-05
R05 N04 N05 4.05e+01
C06 N05 N06 1.20e-05
R06 N05 N06 4.34e+00
C07 N06 N07 3.17e-05
R07 N06 N07 3.53e-01
C08 N07 N08 1.01e-05
R08 N07 N08 3.14e-01
C09 N08 N09 5.31e-06
R09 N08 N09 5.00e-02
L10 N09 N10 2.01e-11
R10 N09 N10 1.22e-01
L11 N10 N11 1.01e-10
R11 N10 N11 6.53e-02
C12 N11 N12 8.61e-07
L12 N11 N12 1.01e-11
R12 N11 N12 9.38e-03
C13 N12 N13 1.86e-07
L13 N12 N13 2.28e-11
R13 N12 N13 2.03e-02
C14 N13 Port2 3.68e-12
L14 N13 Port2 3.50e-11
R14 N13 Port2 3.66e+00
.ENDS GCM155L81E104KE01
