*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X8L(-55to150[deg])/4.70e-04[uF]/50[V]
* Murata P/N :GCM155L81H471KA37
* Property : C = 4.70e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155L81H471KA37 Port1 Port2
C01 Port1 N01 4.64e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 1.80e-10
R03 N02 N03 3.86e-01
C04 N03 N04 4.58e-08
R04 N03 N04 3.76e+04
C05 N04 N05 6.96e-08
R05 N04 N05 2.21e+03
C06 N05 N06 6.83e-08
R06 N05 N06 2.02e+02
C07 N06 N07 5.29e-08
R07 N06 N07 2.45e+01
C08 N07 N08 4.12e-08
R08 N07 N08 4.40e+00
C09 N08 N09 2.37e-08
R09 N08 N09 1.07e+00
C10 N09 N10 7.16e-09
R10 N09 N10 4.87e-01
C11 N10 N11 3.65e-09
R11 N10 N11 2.22e-01
C12 N11 N12 1.54e-10
L12 N11 N12 3.09e-11
R12 N11 N12 4.52e-01
C13 N12 Port2 2.04e-12
L13 N12 Port2 1.71e-10
R13 N12 Port2 1.67e+01
.ENDS GCM155L81H471KA37
