*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/1.00e-01[uF]/10[V]
* Murata P/N :GCM155R71A104KA01
* Property : C = 1.00e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155R71A104KA01 Port1 Port2
C01 Port1 N01 9.43e-08
R01 Port1 N01 5.00e+09
L02 N01 N02 1.90e-10
R03 N02 N03 1.60e-02
C04 N03 N04 9.53e-06
R04 N03 N04 4.18e+02
C05 N04 N05 1.75e-05
R05 N04 N05 3.55e+01
C06 N05 N06 1.24e-05
R06 N05 N06 1.15e+01
C07 N06 N07 1.70e-05
R07 N06 N07 1.18e+00
C08 N07 N08 1.40e-05
R08 N07 N08 4.69e-01
C09 N08 N09 7.92e-06
R09 N08 N09 1.05e-01
C10 N09 N10 5.42e-06
R10 N09 N10 1.88e-02
L11 N10 N11 1.77e-11
R11 N10 N11 1.64e-01
L12 N11 N12 8.27e-11
R12 N11 N12 7.30e-02
C13 N12 N13 1.50e-06
L13 N12 N13 6.34e-12
R13 N12 N13 6.64e-03
C14 N13 N14 1.08e-07
L14 N13 N14 4.17e-11
R14 N13 N14 2.66e-02
C15 N14 Port2 9.26e-12
L15 N14 Port2 3.51e-11
R15 N14 Port2 3.86e+00
.ENDS GCM155R71A104KA01
