*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/2.20e-04[uF]/100[V]
* Murata P/N :GCM155R72A221KA37
* Property : C = 2.20e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155R72A221KA37 Port1 Port2
C01 Port1 N01 2.25e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 1.65e-10
R03 N02 N03 5.28e-01
C04 N03 N04 3.05e-08
R04 N03 N04 5.36e+04
C05 N04 N05 5.44e-08
R05 N04 N05 7.75e+03
C06 N05 N06 3.27e-08
R06 N05 N06 1.51e+03
C07 N06 N07 3.08e-08
R07 N06 N07 1.32e+02
C08 N07 N08 3.94e-08
R08 N07 N08 1.35e+01
C09 N08 N09 2.37e-08
R09 N08 N09 7.47e+00
C10 N09 N10 1.06e-08
R10 N09 N10 1.99e+00
C11 N10 N11 1.75e-09
R11 N10 N11 1.21e+00
C12 N11 N12 1.79e-09
R12 N11 N12 2.96e-01
C13 N12 N13 7.67e-11
L13 N12 N13 3.93e-11
R13 N12 N13 7.22e-01
C14 N13 Port2 1.91e-12
L14 N13 Port2 1.70e-10
R14 N13 Port2 1.81e+01
.ENDS GCM155R72A221KA37
