*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/6.80e-02[uF]/16[V]
* Murata P/N :GCM155R71C683KA55
* Property : C = 6.80e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155R71C683KA55 Port1 Port2
C01 Port1 N01 6.66e-08
R01 Port1 N01 7.35e+09
L02 N01 N02 1.42e-10
R03 N02 N03 2.25e-02
C04 N03 N04 7.67e-06
R04 N03 N04 4.15e+02
C05 N04 N05 1.56e-05
R05 N04 N05 4.99e+01
C06 N05 N06 1.01e-05
R06 N05 N06 1.51e+01
C07 N06 N07 9.00e-06
R07 N06 N07 3.08e+00
C08 N07 N08 6.47e-06
R08 N07 N08 2.84e-01
C09 N08 N09 2.06e-05
R09 N08 N09 2.68e-01
C10 N09 N10 4.78e-06
R10 N09 N10 5.03e-02
C11 N10 N11 7.31e-06
R11 N10 N11 8.30e-03
L12 N11 N12 7.78e-11
R12 N11 N12 9.73e-02
L13 N12 N13 8.52e-12
R13 N12 N13 8.32e-02
C14 N13 N14 7.06e-08
L14 N13 N14 3.75e-11
R14 N13 N14 3.06e-02
C15 N14 Port2 1.26e-12
L15 N14 Port2 1.31e-10
R15 N14 Port2 2.38e+01
.ENDS GCM155R71C683KA55
